US09056859B2
1-(3,8-Diazabicyclo[3.2.1]oct-3-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone was prepared in an analogous fashion as described above in the synthesis of 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride starting from [4-(1H-tetrazol-1-yl)phenyl]acetic acid and tert-butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate. LC/MS: [(M+1)]+=299.

reactant | 1-(piperazin-1-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC1=CC=C(C=C1)N1N=NN=C1)=O
reactant | [4-(1H-tetrazol-1-yl)phenyl]acetic acid | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)O | C9H8N4O2
reactant | tert-butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate | C12CNCC(CC1)N2C(=O)OC(C)(C)C | C11H20N2O2
product | 1-(3,8-Diazabicyclo[3.2.1]oct-3-yl)-2-[4-(1H-tetrazol-1-yl)phenyl]ethanone | C12CN(CC(CC1)N2)C(CC2=CC=C(C=C2)N2N=NN=C2)=O | C15H18N6O
